US08802704B2
Step 2: tert-butyl 2-((2,6-difluoro-4-(N′-hydroxycarbamimidoyl)benzyl)(methyl)amino)acetate
A solution of tert-butyl 2-((4-cyano-2,6-difluorobenzyl)(methyl)amino)acetate (0.281 g, 0.95 mmol) and 50% aqueous hydroxylamine (0.32 mL) in ethanol (1.3 mL) was heated at 75° C. for 18 hours. The solvent was evaporated in vacuo. The residue was partitioned between EtOAc and water, and then the organic phase was passed through a hydrophobic frit. The solvent was evaporated in vacuo to afford the title compound. 1H NMR (CDCl3, 400 MHz) δ 7.22-7.13 (2H, m), 4.81 (2H, br s), 3.91 (2H, s), 3.20 (2H, s), 2.40 (3H, s), 1.48 (9H, s).

reactant | tert-butyl 2-((4-cyano-2,6-difluorobenzyl)(methyl)amino)acetate | 0.95 mmol, 0.281 g | C(#N)C1=CC(=C(CN(CC(=O)OC(C)(C)C)C)C(=C1)F)F | C15H18F2N2O2
reactant | hydroxylamine | 0.32 mL | NO | H3NO
solvent | ethanol | 1.3 mL | C(C)O | C2H6O
product | tert-butyl 2-((2,6-difluoro-4-(N′-hydroxycarbamimidoyl)benzyl)(methyl)amino)acetate | FC1=C(CN(CC(=O)OC(C)(C)C)C)C(=CC(=C1)C(N)=NO)F | C15H21F2N3O3
